US07432288B2
3-[(4-Methoxyphenyl)amino]-4-phenyl-1-(pyridin-2-ylmethyl)-1H-pyrrole-2,5-dione
3-Chloro-4-phenyl-1-(pyridin-2-ylmethyl)-1H-pyrrole-2,5-dione (2.39 mmol, 714 mg) and 4-methoxyaniline (5.26 mmol, 648 mg) were dissolved in DMF (4 mL). The mixture was heated in a microwave reactor at 150° C. for five min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 710 mg (77%) of the title compound. 1H NMR (400 MHz, CDCl3): 8.60-8.57 (m, 1H), 7.71-7.65 (m, 1H), 7.36-7.30 (m, 1H), 7.24 (bs, 1H), 7.23-7.19 (m, 1H), 7.13-7.05 (m, 3H), 7.04-6.99 (m, 2H), 6.64-6.53 (m, 4H), 4.95 (s, 2H), 3.70 (s, 3H).

reactant | 3-Chloro-4-phenyl-1-(pyridin-2-ylmethyl)-1H-pyrrole-2,5-dione | 2.39 mmol, 714 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC1=NC=CC=C1)=O | C16H11ClN2O2
reactant | 4-methoxyaniline | 5.26 mmol, 648 mg | COC1=CC=C(N)C=C1 | C7H9NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-[(4-Methoxyphenyl)amino]-4-phenyl-1-(pyridin-2-ylmethyl)-1H-pyrrole-2,5-dione | 710 mg, 77% | COC1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CC1=NC=CC=C1)=O | C23H19N3O3
